US05242948
Cyclohexylthiourea
295.5 g (2.1 mol) of benzoyl chloride were added dropwise over the course of 10 minutes to a solution of 165.0 g (2.2 mol) of ammonium thiocyanate in 500 ml of absolute acetone. After refluxing for 10 minutes, 198.9 g (2.0 mol) of cyclohexylamine were added dropwise, and the mixture was refluxed for a further 20 minutes. It was then stirred into 4 1 of ice-water, and the water was decanted off the oily product. The residue was dissolved in a hot mixture of 2 1 of 10% strength sodium hydroxide solution and 500 ml of ethanol and refluxed for 30 minutes. The reaction mixture was then diluted with ice-water, and the pH was adjusted initially to 1 with concentrated hydrochloric acid and then to 9 with solid sodium bicarbonate. The resulting precipitate was filtered off with suction, washed with water and dried at 80° C. under reduced pressure.

reactant | benzoyl chloride | 2.1 mol, 295.5 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | ammonium thiocyanate | 2.2 mol, 165.0 g | [S-]C#N.[NH4+]
reactant | cyclohexylamine | 2.0 mol, 198.9 g | C1(CCCCC1)N | C6H13N
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | Cyclohexylthiourea | C1(CCCCC1)NC(=S)N | C7H14N2S
